US04663341
To 2.1 g of diisopropylamine dissolved in 15 ml of tetrahydrofuran and cooled in an ice salt bath was added 8.0 ml of a 2.7 molar solution of n-butyllithium in hexane. After stirring for 5 minutes a solution of 3.7 g of N-(4-bromophenyl)-3-(4-fluorophenyl)-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide (prepared from 4-fluoropropiophenone and 4-bromophenyl isocyanate by a method analogous to that described above in Examples E, F, and G) in 15 ml of tetrahydrofuran was added and the resulting solution stirred for 15 minutes. To this solution was added 1.5 ml of 1-iodobutane and, after 15 minutes 1.5 ml of acetic acid was added. The reaction mixture was partitioned between diethyl ether and water and the organic layer was dried over anhydrous magnesium sulfate. The resulting solution was filtered evaporated in vacuo and chromatographed to give 2.9 g of N-(4-bromophenyl)-3-(4-fluorophenyl)-4-butyl-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide an oil that solidifed on long standing. NMR and IR data were consistent with the structure.

reactant | diisopropylamine | 2.1 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | N-(4-bromophenyl)-3-(4-fluorophenyl)-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide | 3.7 g | BrC1=CC=C(C=C1)NC(=O)N1N=C(C(C1)C)C1=CC=C(C=C1)F | C17H15BrFN3O
reactant | 4-fluoropropiophenone | CCC(=O)C1=CC=C(C=C1)F | C9H9FO
reactant | 4-bromophenyl isocyanate | BrC1=CC=C(C=C1)N=C=O | C7H4BrNO
reactant | 1-iodobutane | 1.5 ml | ICCCC | C4H9I
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
product | N-(4-bromophenyl)-3-(4-fluorophenyl)-4-butyl-4-methyl-4,5-dihydro-1H-pyrazole-1-carboxamide | 2.9 g | BrC1=CC=C(C=C1)NC(=O)N1N=C(C(C1)(C)CCCC)C1=CC=C(C=C1)F | C21H23BrFN3O
